US04707550
3-[2-[4-(2-Methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione
A 500 ml tetrahydrofuran mixture containing 13.1 g (50 mmol) of N-(3-carbomethoxythien-4-yl)-N'-(2-chloroethyl)urea from (a), 35 g (150 mmol) of 1-(2-methoxyphenyl)piperazine hydrochloride, 21 g (250 mmol) of sodium bicarbonate and 3.75 g (25 mmol) of sodium iodide was heated to reflux under nitrogen for 4 days. The tetrahydrofuran was removed in vacuo and the residue was partitioned between H2O and CH2Cl2. The CH2Cl2 extracts were dried over MgSO4 and evaporated to dryness. This residue which contained the title compound of Example 2 was dissolved in 300 ml of methanol and treated with 4.5 g (56 mmol) of 50% NaOH. After the solution had been stirred at room temperature for 16 hours, the resulting precipitate was collected by filtration to afford 9.7 g of the title compound. The filtrate was purified by flash silica gel chromatography using 1-5% MeOH in CH2Cl2. There was obtained an additional 3.4 g of the title compound (13.1 g total, 68%) which was converted to its hydrochloride salt with isopropanolic hydrogen chloride, 9.1 g, mp 273°-275° C. (dec).

reactant | N-(3-carbomethoxythien-4-yl)-N'-(2-chloroethyl)urea | 50 mmol, 13.1 g | C(=O)(OC)C1=CSC=C1NC(=O)NCCCl | C9H11ClN2O3S
reactant | 1-(2-methoxyphenyl)piperazine hydrochloride | 150 mmol, 35 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | sodium bicarbonate | 250 mmol, 21 g | C([O-])(O)=O.[Na+]
reactant | sodium iodide | 25 mmol, 3.75 g | [I-].[Na+]
reactant | NaOH | 56 mmol, 4.5 g | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3-[2-[4-(2-Methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione | 9.7 g | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(NC=2C(C1=O)=CSC2)=O | C19H22N4O3S
